US07858640B2
[8-chloro-3-(2-chloro-4-methanesulfonylbenzyl)-2-difluoromethoxy-4-methylquinolin-5-yloxy]acetic Acid
A solution of [8-chloro-3-(2-chloro-4-methanesulfonylbenzyl)-2-difluoromethoxy-4-methylquinolin-5-yloxy]acetic acid methyl ester (0.50 g), methanol (10 mL), saturated aqueous lithium hydroxide solution (0.5 mL) and water (1.0 mL) was stirred at 40° C. for 3 hours. The methanol was removed under reduced pressure and the pH of the residue adjusted to 4 by the addition of glacial acetic acid. The resulting precipitate was collected by filtration, washed with water, methanol and diethyl ether, and then dried to afford title compound as a white solid, 0.15 g.

reactant | [8-chloro-3-(2-chloro-4-methanesulfonylbenzyl)-2-difluoromethoxy-4-methylquinolin-5-yloxy]acetic acid methyl ester | 0.50 g | COC(COC1=C2C(=C(C(=NC2=C(C=C1)Cl)OC(F)F)CC1=C(C=C(C=C1)S(=O)(=O)C)Cl)C)=O | C22H19Cl2F2NO6S
reactant | methanol | 10 mL | CO | CH4O
reactant | lithium hydroxide | 0.5 mL | [OH-].[Li+]
solvent | water | 1.0 mL | O | H2O
product | [8-chloro-3-(2-chloro-4-methanesulfonylbenzyl)-2-difluoromethoxy-4-methylquinolin-5-yloxy]acetic Acid | ClC=1C=CC(=C2C(=C(C(=NC12)OC(F)F)CC1=C(C=C(C=C1)S(=O)(=O)C)Cl)C)OCC(=O)O | C21H17Cl2F2NO6S
